US04237294
2,2,4,4,14,14,16,16-Octamethyl-3,15-bis[2-{3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionyloxy}ethyl]-7,11,18,21-tetraoxa-3,15-diazatrispiro[5.2.2.5.2.2]heneicosane (Compound No. 6)
A mixture of 20 g of 2,2,4,4,14,14,16,16-octamethyl-3,15-bis(2-hydroxyethyl)-7,11,18,21-tetraoxa-3,15-diazatrispiro[5.2.2.5.2.2]heneicosane, 26 g of methyl 3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionate and 2 g of lithium amide was refluxed for 8 hours in 400 ml of toluene under argon stream. Following the procedures in Example 1, the residue was purified first by column chromatography through silica gel with a 9:1 by volume mixture of benzene and ethyl acetate, then by recrystallization from a 4:1 by volume mixture of n-hexane and benzene, giving the desired compound in the form of pale yellow crystals melting at 176°-178° C.

reactant | 2,2,4,4,14,14,16,16-octamethyl-3,15-bis(2-hydroxyethyl)-7,11,18,21-tetraoxa-3,15-diazatrispiro[5.2.2.5.2.2]heneicosane | 20 g | CC1(CC2(CC(N1CCO)(C)C)OCC1(COC3(CC(N(C(C3)(C)C)CCO)(C)C)OC1)CO2)C | C27H50N2O6
reactant | methyl 3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionate | 26 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)OC | C18H28O3
reactant | lithium amide | 2 g | [NH2-].[Li+]
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 2,2,4,4,14,14,16,16-Octamethyl-3,15-bis[2-{3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionyloxy}ethyl]-7,11,18,21-tetraoxa-3,15-diazatrispiro[5.2.2.5.2.2]heneicosane | CC1(CC2(CC(N1CCOC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)(C)C)OCC1(COC3(CC(N(C(C3)(C)C)CCOC(CCC3=CC(=C(C(=C3)C(C)(C)C)O)C(C)(C)C)=O)(C)C)OC1)CO2)C | C61H98N2O10
